US06949648B2
3-Hydrazinopyridine dihydrochloride
To a mixture of 3-aminopyridine (9.41 g, 100 mmol) and conc. hydrochloric acid (100 mL) was cooled to a temperature of lower than −5° C., a solution of sodium nitrite (7.20 g, 105 mmol) in water (60 mL) was added dropwise thereto. Subsequently, a solution of tin chloride (II) (56.9 g, 300 mmol) in conc. hydrochloric acid (50 mL) was added to the solution so that the temperature of the solution does not exceed −5° C., and the solution was stirred at a temperature of less than −5° C. for 3 hours, and the resulting crystals were collected by filtration. The crystals were washed with diethylether/methanol and air dried to give the title compound (15.6 g, 85% yield). The compound was used in the following process without further purification.

reactant | 3-aminopyridine | 100 mmol, 9.41 g | NC=1C=NC=CC1 | C5H6N2
reactant | sodium nitrite | 105 mmol, 7.20 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 50 mL | Cl | ClH
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | water | 60 mL | O | H2O
catalyst | copper acetate | 300 mmol, 56.9 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-Hydrazinopyridine dihydrochloride | 15.6 g, 85% yield | Cl.Cl.N(N)C=1C=NC=CC1 | InChI=1S/C5H7N3.2ClH/c6-8-5-2-1-3-7-4-5;;/h1-4,8H,6H2;2*1H
